US07138408B2
9-Benzyl-N-hydroxy-9H-β-carboline-3-carboxamide
To a stirred solution of ethyl 9H-β-carboline-3-carboxylate (290 mg, 1.21 mmol) in DMF (4 mL) under a nitrogen atmosphere was added NaH (53 mg, 60% in mineral oil, 1.33 mmol) portionwise, followed by benzyl bromide (173 μL, 1.45 mmol). Stirring was continued for 21 hours at ambient temperature, water (50 mL) was then added to the mixture. The precipitate was filtered, washed with water and dried to give a solid that was dissolved in methanol (25 mL). To the resulting solution, H2NOH (25 mL, 50 wt. % solution in H2O, 0.38 mol) was added. The suspension was stirred for 3 days at ambient temperature. The mixture was then filtered, and the solid was boiled in methanol (25 mL). After filtration, the title product (0.15 g, 39%) was obtained. 1H NMR (400 MHz, DMSO-d6): δ 11.32 (1H, s), 9.10 (1H, s), 9.05 (1H, s), 8.89 (1H, s), 8.52 (1H, d, J=8 Hz), 7.26–7.87 (8H, m), 5.90 (2H, s). HRMS (M+H)+ found: 318.1249. Calcd for C19H16N3O2: 318.1243.

reactant | ethyl 9H-β-carboline-3-carboxylate | 1.21 mmol, 290 mg | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H12N2O2
reactant | NaH | 1.33 mmol, 53 mg | [H-].[Na+]
reactant | benzyl bromide | 1.45 mmol, 173 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | H2NOH | 0.38 mol, 25 mL | NO | H3NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 9-Benzyl-N-hydroxy-9H-β-carboline-3-carboxamide | 0.15 g, 39% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(N=CC12)C(=O)NO | C19H15N3O2
